US07119120B2
5-Bromo-2-(4-chloro-benzenesulfonylamino)-N-(2-trifluoromethoxy-benzyl)-benzamide
This compound was prepared using the procedure described in Example 70, using 5-bromo-2-(4-chloro-benzenesulfonylamino)-benzoyl chloride instead of 5-bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoyl chloride, and 2-trifluoromethoxybenzyl amine instead of 2-methoxy benzyl amine. M/Z of [M−H]−=563.8. 1H NMR (DMSO) δ=4.4 (sd, 2H), 7.3–7.4 (5H), 7.5 (2H), 7.65–7.7 (3H), 7.9–8.0 (1H), 9.4 (br, 1H), 11.5 (br, 1H).

reactant | 5-bromo-2-(4-chloro-benzenesulfonylamino)-benzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C13H8BrCl2NO3S
reactant | 2-trifluoromethoxybenzyl amine | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
product | 5-Bromo-2-(4-chloro-benzenesulfonylamino)-N-(2-trifluoromethoxy-benzyl)-benzamide | BrC=1C=CC(=C(C(=O)NCC2=C(C=CC=C2)OC(F)(F)F)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C21H15BrClF3N2O4S
